US07053088B2
[6-Chloro-5-(4-trifluoromethylphenyl)pyridazin-3-yl]-[quinolin-7-yl]amine.
(Analogous to the procedure of WO 178270). A mixture of 3,6-dichloro-4-(4-trifluoromethylphenyl)pyridazine, Example 81(d), (2.0 g, 6.8 mmol), 7-amino-quinoline (984 mg, 6.8 mmol) and ZnCl2 (980 mg, 3.4 mmol) was heated in a microwave with stirring at 220° C. for 20 min. The reaction mixture was cooled to room temperature, a second portion of 3,6-dichloro-4-(4-trifluoromethylphenyl)pyridazine (2.0 g, 6.8 mmol), was added and the mixture was heated again in microwave at 220° C. for 40 min. The reaction mixture was cooled to room temperature, diluted with EtOAc (50 mL) and washed with H2O (3×). The organic layer was dried over Na2SO4, filtered and the solvent evaporated in vacuo. The residue was purified by preparative thin layer chromatography, eluting with MeOH:CH2Cl2 (1:39), to give the title compound as a light-yellow powder. MS (ESI, pos. ion) m/z: 401 (M+1).

reactant | 3,6-dichloro-4-(4-trifluoromethylphenyl)pyridazine | ClC=1N=NC(=CC1C1=CC=C(C=C1)C(F)(F)F)Cl | C11H5Cl2F3N2
reactant | 7-amino-quinoline | 6.8 mmol, 2.0 g | NC1=CC=C2C=CC=NC2=C1 | C9H8N2
reactant | 3,6-dichloro-4-(4-trifluoromethylphenyl)pyridazine | 6.8 mmol, 2.0 g | ClC=1N=NC(=CC1C1=CC=C(C=C1)C(F)(F)F)Cl | C11H5Cl2F3N2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | ZnCl2 | 3.4 mmol, 980 mg | [Cl-].[Cl-].[Zn+2]
product | [6-Chloro-5-(4-trifluoromethylphenyl)pyridazin-3-yl]-[quinolin-7-yl]amine | ClC1=C(C=C(N=N1)NC1=CC=C2C=CC=NC2=C1)C1=CC=C(C=C1)C(F)(F)F | C20H12ClF3N4
